US06797823B1
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,5-dimethylphenyl}-N′-(2-methoxyphenyl)urea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,5-dimethyl-aniline (100 mg) was dissolved in chloroform (10 ml), and 2-methoxyphenyl isocyanate (49 μl) was added to the solution. The mixture was heated under reflux overnight. Methanol was added to the reaction solution. The solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel by development with chloroform/acetone (2/1) to quantitatively give the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,5-dimethyl-aniline | 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1C)C | C19H20N2O3
reactant | 2-methoxyphenyl isocyanate | 49 μl | COC1=C(C=CC=C1)N=C=O | C8H7NO2
reactant | Methanol | CO | CH4O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,5-dimethylphenyl}-N′-(2-methoxyphenyl)urea | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1C)NC(=O)NC1=C(C=CC=C1)OC)C | C27H27N3O5
